US05155113
Preparation of 2,4-dibenzoyloxypyridine
To 4.0 g of 2,4-bis(trimethylsilyloxy)-pyridine in 50 ml of dichloromethane were added 2.65 g of benzoyl chloride and 0.2 ml of stannic chloride, and the mixture was stirred at room temperature for one hour. The solvent was distilled off and the residue was subjected to silica gel chromatography using ethyl acetate-benzene (2:3) as an eluent to produce 0.74 g of the title compound in a yield of 14.8%.

reactant | 2,4-bis(trimethylsilyloxy)-pyridine | 4.0 g | C[Si](OC1=NC=CC(=C1)O[Si](C)(C)C)(C)C | C11H21NO2Si2
reactant | benzoyl chloride | 2.65 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,4-dibenzoyloxypyridine | 0.74 g, yield of 14.8% | C(C1=CC=CC=C1)(=O)OC1=NC=CC(=C1)OC(C1=CC=CC=C1)=O | C19H13NO4
